US08304557B2
N-{6-[5-({[3-(1-cyano-1-methylethyl)phenyl]carbonyl}amino)-2-methylphenoxy][1,2,4]triazolo[1,5-a]pyridin-2-yl}-6-methylpyridine-3-carboxamide
To a solution of 6-methylpyridine-3-carboxylic acid (252 mg, 1.84 mmol) in tetrahydrofuran (6 mL) were added oxalyl chloride (200 μL, 2.30 mmol) and N,N-dimethylformamide (20 μL), and the mixture was stirred at room temperature for 1 hr. The reaction mixture was concentrated under reduced pressure. The obtained residue and N-{3-[(2-amino[1,2,4]triazolo[1,5-a]pyridin-6-yl)oxy]-4-methylphenyl}-3-(1-cyano-1-methylethyl)benzamide (196 mg, 0.460 mmol) were dissolved in pyridine (7 mL), and the mixture was stirred at room temperature for 7 days. A saturated aqueous sodium hydrogen carbonate solution (20 mL) was added to the reaction mixture, and the mixture was extracted with ethyl acetate (30 mL, 10 mL). The combined organic layer was washed with saturated brine (10 mL) and dried over anhydrous sodium sulfate. The insoluble material was filtered off, and the filtrate was concentrated under reduced pressure. The obtained residue was purified by silica gel column chromatography (NH silica gel, ethyl acetate/methanol=100/0→99.5/0.5), and fractions containing the desired product were concentrated under reduced pressure. The obtained residue was recrystallized from methanol to give the title compound (124 mg, 49%) as colorless crystals.

reactant | 6-methylpyridine-3-carboxylic acid | 1.84 mmol, 252 mg | CC1=CC=C(C=N1)C(=O)O | C7H7NO2
reactant | oxalyl chloride | 2.30 mmol, 200 μL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | N-{3-[(2-amino[1,2,4]triazolo[1,5-a]pyridin-6-yl)oxy]-4-methylphenyl}-3-(1-cyano-1-methylethyl)benzamide | 0.460 mmol, 196 mg | NC1=NN2C(C=CC(=C2)OC=2C=C(C=CC2C)NC(C2=CC(=CC=C2)C(C)(C)C#N)=O)=N1 | C24H22N6O2
reactant | sodium hydrogen carbonate | 20 mL | C(O)([O-])=O.[Na+]
solvent | tetrahydrofuran | 6 mL | O1CCCC1 | C4H8O
solvent | pyridine | 7 mL | N1=CC=CC=C1 | C5H5N
solvent | N,N-dimethylformamide | 20 μL | CN(C=O)C | C3H7NO
product | N-{6-[5-({[3-(1-cyano-1-methylethyl)phenyl]carbonyl}amino)-2-methylphenoxy][1,2,4]triazolo[1,5-a]pyridin-2-yl}-6-methylpyridine-3-carboxamide | 124 mg, 49% | C(#N)C(C)(C)C=1C=C(C=CC1)C(=O)NC=1C=CC(=C(OC=2C=CC=3N(C2)N=C(N3)NC(=O)C=3C=NC(=CC3)C)C1)C | C31H27N7O3
